US09056859B2
4-({4-[(1-Oxo-1,3-dihydro-2-benzofuran-5-yl)acetyl]piperazin-1-yl}methyl)-3,4-dihydro-2H-chromene-8-carbonitrile was prepared in an analogous fashion to that described for the synthesis of 4-[(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)methyl]-3,4-dihydro-2H-chromene-8-carbonitrile above starting from 4-formyl-3,4-dihydro-2H-chromene-8-carbonitrile and 5-[2-oxo-2-(piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one. 1H-NMR (400 MHz, CDCl3) δ ppm 7.85 (d, J=7.8 Hz, 1H), 7.31˜7.38 (m, 4H), 6.8 (t, J=7.8 Hz, 1H), 5.24 (s, 2H), 4.15˜4.45 (m, 2H), 3.8 (s, 2H), 3.4˜3.73 (m, 4H), 2.88˜2.95 (m, 1H), 2.3˜2.52 (m, 6H), 1.97˜2.1 (m, 2H).

reactant | 4-[(4-{[4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)methyl]-3,4-dihydro-2H-chromene-8-carbonitrile | N1(N=NN=C1)C1=CC=C(C=C1)CC(=O)N1CCN(CC1)CC1CCOC2=C(C=CC=C12)C#N | C24H25N7O2
reactant | 4-formyl-3,4-dihydro-2H-chromene-8-carbonitrile | C(=O)C1CCOC2=C(C=CC=C12)C#N | C11H9NO2
reactant | 5-[2-oxo-2-(piperazin-1-yl)ethyl]-2-benzofuran-1(3H)-one | O=C(CC1=CC2=C(C(OC2)=O)C=C1)N1CCNCC1 | C14H16N2O3
product | 4-({4-[(1-Oxo-1,3-dihydro-2-benzofuran-5-yl)acetyl]piperazin-1-yl}methyl)-3,4-dihydro-2H-chromene-8-carbonitrile | O=C1OCC2=C1C=CC(=C2)CC(=O)N2CCN(CC2)CC2CCOC1=C(C=CC=C21)C#N | C25H25N3O4
